US07179830B2
b) Methyl 3-acetylamino-4,5-dichlorothiophene-2-carboxylate
was obtained by reacting 19.9 g of methyl 3-acetylaminothiophene-2-carboxylate in 100 ml of chloroform with 17.9 ml of sulfuryl chloride (SO2Cl2) in 120 ml of chloroform by stirring at 40° C. for 2 hours and subsequently boiling under reflux conditions for 15 minutes. After the solvent had been distilled off, the residue was crystallized in ethyl acetate.

reactant | methyl 3-acetylaminothiophene-2-carboxylate | 19.9 g | C(C)(=O)NC1=C(SC=C1)C(=O)OC | C8H9NO3S
reactant | sulfuryl chloride | 17.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 3-acetylamino-4,5-dichlorothiophene-2-carboxylate | C(C)(=O)NC1=C(SC(=C1Cl)Cl)C(=O)OC | C8H7Cl2NO3S
